US07888364B2
4-Chloro-3-iodoaniline (1.01 g, 4 mmol) was used in procedure E with 3,5-dimethyl-4-isoxazolecarboxylic acid (0.565 g, 4 mmol), EDC (1.32 g, 6.8 mmol), TEA (0.5 mL), DMAP-(50 mg, 0.4 mmol) at 23° C. for overnight. The crude reaction was purified by silica gel chromatography (0-15% ethyl acetate/CH2Cl2) to yield 3,5-dimethyl-N-(4-chloro-3-iodophenyl)isoxazole-4-carboxamide as a white solid.

reactant | 4-Chloro-3-iodoaniline | 4 mmol, 1.01 g | ClC1=C(C=C(N)C=C1)I | C6H5ClIN
reactant | 3,5-dimethyl-4-isoxazolecarboxylic acid | 4 mmol, 0.565 g | CC1=NOC(=C1C(=O)O)C | C6H7NO3
reactant | EDC | 6.8 mmol, 1.32 g
product | 3,5-dimethyl-N-(4-chloro-3-iodophenyl)isoxazole-4-carboxamide | CC1=NOC(=C1C(=O)NC1=CC(=C(C=C1)Cl)I)C | C12H10ClIN2O2
